US06174898B1
1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride
1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester (1.40 g, 0.00323 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (10 ml) and 12 N sodium hydroxide solution (0.8 ml) was introduced. After stirring the solution at room temperature for 5 h, 37% hydrochloric acid solution was added until the pH was measured as ca. 1. Dichloromethane (250 ml) was introduced, and the mixture was dried (Na2SO4), filtered and evaporated to a residue, which was co-evaporated with acetone. Recrystallization from acetone provided the title compound (0.80 g, 57%) as a white solid.

reactant | 1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1CN(CCC1)CCOC=C(C1=C(C=CC=C1)CC)C1=C(C=CC=C1)CC | C27H33NO3
reactant | sodium hydroxide | 12 N, 0.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | Dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-(2-((2,2-bis(2-Ethylphenyl)ethenyl)oxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid hydrochloride | 0.80 g, 57% | Cl.C(C)C1=C(C=CC=C1)C(=COCCN1CC(=CCC1)C(=O)O)C1=C(C=CC=C1)CC | InChI=1S/C26H31NO3.ClH/c1-3-20-10-5-7-13-23(20)25(24-14-8-6-11-21(24)4-2)19-30-17-16-27-15-9-12-22(18-27)26(28)29;/h5-8,10-14,19H,3-4,9,15-18H2,1-2H3,(H,28,29);1H
